US05093370
1,4-Bis[4,4-bis(hydroxymethyl)butyl]benzene
First, 525 mg of lithium aluminium hydride was added to 30 ml of absolute tetrahydrofuran, then 20 ml of a solution of 2.39 g 1,4-bis(4,4-diethoxycarbonylbutyl)benzene in absolute tetrahydrofuran was added dropwise thereto with stirring at a room temperature, and the mixture was refluxed for one hour. After adding 4 ml of ethyl acetate with ice-cooling, the reaction mixture was stirred for 10 minutes. To the mixture were further added successively 0.5 ml of water, 0.5 ml of 15% sodium hydroxide aqueous solution and 1.5 ml of water, and the mixture was stirred for one hour. After filtering off insoluble matter, the filtrate was evaporated under a reduced pressure. The oily residue thus obtained was applied to a silica gel column and eluted with chloroform/ethanol (5:1) to obtain 350 mg of the title compound as a colorless crystal.

reactant | lithium aluminium hydride | 525 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,4-bis(4,4-diethoxycarbonylbutyl)benzene | 2.39 g | C(C)OC(=O)C(CCCC1=CC=C(C=C1)CCCC(C(=O)OCC)C(=O)OCC)C(=O)OCC | C26H38O8
reactant | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 1.5 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
product | 1,4-Bis[4,4-bis(hydroxymethyl)butyl]benzene | 350 mg | OCC(CCCC1=CC=C(C=C1)CCCC(CO)CO)CO | C18H30O4
